US07662825B2
2,3-Dichloro-N-(3-methoxy-5,6-dimethyl-2-pyrazinyl)benzenesulphonamide
Prepared by the method of Example 1 using 3-methoxy-5,6-dimethyl-2-pyrazinamine (0.07 g) and 2,3-dichlorobenzenesulphonyl chloride (0.12 g). Yield 0.04 g.

reactant | 3-methoxy-5,6-dimethyl-2-pyrazinamine | 0.07 g | COC=1C(=NC(=C(N1)C)C)N | C7H11N3O
reactant | 2,3-dichlorobenzenesulphonyl chloride | 0.12 g | ClC1=C(C=CC=C1Cl)S(=O)(=O)Cl | C6H3Cl3O2S
product | 2,3-Dichloro-N-(3-methoxy-5,6-dimethyl-2-pyrazinyl)benzenesulphonamide | ClC1=C(C=CC=C1Cl)S(=O)(=O)NC1=NC(=C(N=C1OC)C)C | C13H13Cl2N3O3S
